US05189054
Step a: 2-(Carbmethoxy)methylamino-4-chlorobenzonitrile
Dissolve 2-amino-4-chlorobenzonitrile (12.9 g, 85 mmol) in anhydrous dimethylformamide (15 mL). Add potassium carbonate (7.6 g, 90 mmol) and methyl bromoacetate (7.8 mL, 90 mmol) and stir at 70° C. for 5 days. Add additional methyl bromoacetate (78 mL, 90 mmol) and continue heating for 1 day. Dilute with ethyl acetate (300 mL), wash with water, separate the organic phase and dry (MgSO4). Evaporate the solvent in vacuo and purify by flash chromatography (25% ethyl acetate/hexane). Recrystallize (hexane) to give the title compound (7 g, 36%).

reactant | 2-amino-4-chlorobenzonitrile | 85 mmol, 12.9 g | NC1=C(C#N)C=CC(=C1)Cl | C7H5ClN2
reactant | potassium carbonate | 90 mmol, 7.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 90 mmol, 7.8 mL | BrCC(=O)OC | C3H5BrO2
reactant | methyl bromoacetate | 90 mmol, 78 mL | BrCC(=O)OC | C3H5BrO2
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | 2-(Carbmethoxy)methylamino-4-chlorobenzonitrile | 7 g, 36% | C(=O)(OC)CNC1=C(C#N)C=CC(=C1)Cl | C10H9ClN2O2
